US05843957
Preparation of N-[1-butyl-4-[3-{(cis-4-diethylamino-2-butenyl)oxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
A suspension of N-[1-butyl-4-[3-{(4-diethylamino-2-butynyl)oxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (300 mg, 0.45 mmol), a Lindlar catalyst (distributed by Sigma Alderich Japan, 20 mg) in methanol (20 ml) was stirred at room temperature under hydrogen atmosphere for six hours. The mixture was filtered through a cerite pad, and the filtrate was concentrated under reduced pressure. The resultant was dissolved in chloroform, and the mixture was washed with a dilute aqueous ammonia, washed with water, washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (3-8% methanol in chloroform) to give the title compound (280 mg, 0.43 mmol).

reactant | N-[1-butyl-4-[3-{(4-diethylamino-2-butynyl)oxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.45 mmol, 300 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCC#CCN(CC)CC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C39H49N5O3
catalyst | Lindlar catalyst | 20 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 20 ml | CO | CH4O
product | N-[1-butyl-4-[3-{(cis-4-diethylamino-2-butenyl)oxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.43 mmol, 280 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC\C=C/CN(CC)CC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C39H51N5O3
